US04985458
A mixture of 69.09 g (500 mM) of veratrole, 87.01 g (550 mM) of isobutyric anhydride and 2.50 g (20 mM) of iodine was heated with stirring under reflux for 34 hours. After cooling to the room temperature, the reaction mixture was poured into 250 ml of water and extracted three times with each 200 ml of ether. The extracted solution was successively washed with 250 g of 12% aqueous sodium carbonate solution, 2% aqueous sodium hydrogen sulfite solution and further twice with each 250 ml of water. The resulting solution was dried with anhydrous sodium sulfate, distilled off ether and vacuum distilled to obtain 87.21 g (419 mM) of 4-iso-butyrylveratrole as yellow liquid having a boiling point of 125°-128° C./ 2 mmHg.

reactant | veratrole | 500 mM, 69.09 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | isobutyric anhydride | 550 mM, 87.01 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | iodine | 20 mM, 2.50 g | II | I2
solvent | water | 250 ml | O | H2O
product | 4-iso-butyrylveratrole | 419 mM, 87.21 g | C(C(C)C)(=O)C=1C=C(C(=CC1)OC)OC | C12H16O3
